US07399767B2
3-(6-Methoxy-pyridin-3-yl)-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one
The title product was prepared as a white solid according to the procedure described in Example 9 using 1-[2-hydroxy-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-ethanone and (6-methoxy-pyridin-3-yl)-acetic acid as the starting material.

reactant | 1-[2-hydroxy-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-ethanone | OC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)C(C)=O | C14H22O4Si
reactant | (6-methoxy-pyridin-3-yl)-acetic acid | COC1=CC=C(C=N1)CC(=O)O | C8H9NO3
product | 3-(6-Methoxy-pyridin-3-yl)-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one | COC1=CC=C(C=N1)C=1C(OC2=CC(=CC=C2C1C)OCOCC[Si](C)(C)C)=O | C22H27NO5Si
